US04012377
A solution of 2-chloro-5-formylthiophene (5.68 g., 40 mM) and cyanomethylenetriphenylphosphorane (12.04 g., 40 mM) in chloroform (100 ml.) was heated under reflux for 20 min., and was evaporated to an oily solid. This was triturated with ether (20 ml.) and colourless needles of triphenylphosphine oxide (m.p. 156°-157°) were filtered off, and were washed with ether (10 ml.). The combined filtrates were evaporated, and the residue was distilled under reduced pressure to give 3-(5-chlorothien-2-yl)acrylonitrile (5.62 g., 83%) as a colourless oil, b.p. 100°-104°/0.6mm., which crystallised in needles, m.p. 41°-43° [Found: C, 49.1; H, 2.5; C1, 21.1; N, 8.3; S, 19.1; C7H4ClNS (169.6) requires C, 49.6; H, 2.4; Cl, 20.9; N, 8.3; S, 18.9%]λmax. 315 nm (ε 21,120).

reactant | 2-chloro-5-formylthiophene | 40 mM, 5.68 g | ClC=1SC(=CC1)C=O | C5H3ClOS
reactant | cyanomethylenetriphenylphosphorane | 40 mM, 12.04 g | C(#N)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16NP
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-chlorothien-2-yl)acrylonitrile | 5.62 g, 83% | ClC1=CC=C(S1)C=CC#N | C7H4ClNS
